US08536165B2
C. 5-Phenylpyridin-3-amine
A mixture of 2-chloro-5-nitro-3-phenylpyridine (0.43 mmol, 0.1 g), KOAc (0.43 mmol, 0.042 g) and Pd/C 10% (0.03 g) in ethanol (4 ml) was stirred for 24 hours under hydrogen atmosphere. The catalyst was filtered off and the solid thoughtfully washed with warm ethanol. The solid residue was purified by chromatography over SiO2 eluting with dichloromethane/methanol mixtures affording 5-phenylpyridin-3-amine (0.05 g, yield 69%) of the expected product.

reactant | 2-chloro-5-nitro-3-phenylpyridine | 0.43 mmol, 0.1 g | ClC1=NC=C(C=C1C1=CC=CC=C1)[N+](=O)[O-] | C11H7ClN2O2
reactant | KOAc | 0.43 mmol, 0.042 g | CC(=O)[O-].[K+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.03 g | [Pd] | Pd
product | 5-phenylpyridin-3-amine | 0.05 g, yield 69% | C1(=CC=CC=C1)C=1C=C(C=NC1)N | C11H10N2
